US04528400
A method according to claim 1 wherein the ketone is diethyl ketone and the carboxylic acid is benzoic acid to yield propiophenone.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diethyl ketone | C(C)C(=O)CC | C5H10O
product | propiophenone | C(CC)(=O)C1=CC=CC=C1 | C9H10O
